US07338960B2
Ethyl (2E)-3-{3,5-dimethyl-4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}-2-propenoate
A stirred solution of 1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}-1-pentanol (62 mg, 0.20 mmol) and ethyl (2E)-3-(4-hydroxy-3,5-dimethylphenyl)-2-propenoate (79 mg, 0.36 mmol) in THF (4 mL) at 0° C. under nitrogen was added ADDP (101 mg, 0.40 mmol) followed by tri-N-butylphosphine (0.100 mL, 0.40 mmol). The resulting mixture was then allowed to warm slowly to ambient temperature overnight. After 66 h the solvent was removed under vacuum (Genevac) and the resulting solid partitioned between DCM (5 mL) and water (5 mL), the layers separated and the aqueous re-extracted with DCM (5 mL). The combined organic layer was then reduced under vacuum and purified by SPE (silica, 10 g cartridge) eluting with cyclohexane:EtOAc (gradient 20:1 to 1:1) to give the title compound (35 mg).

reactant | 1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}-1-pentanol | 0.20 mmol, 62 mg | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C(CCCC)O)(F)F | C17H18F3NO
reactant | ethyl (2E)-3-(4-hydroxy-3,5-dimethylphenyl)-2-propenoate | 0.36 mmol, 79 mg | OC1=C(C=C(C=C1C)/C=C/C(=O)OCC)C | C13H16O3
reactant | ADDP | 0.40 mmol, 101 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
reactant | tri-N-butylphosphine | 0.40 mmol, 0.100 mL | CCCCP(CCCC)CCCC | C12H27P
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | Ethyl (2E)-3-{3,5-dimethyl-4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}-2-propenoate | 35 mg | CC=1C=C(C=C(C1OC(CCCC)C1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)C)/C=C/C(=O)OCC | C30H32F3NO3
